US04451476
A mixture of 5.1 g of 4-cyanophenol, 10 g of 3-(5-bromopentyl)-5-methylisoxazole, 8 g of potassium carbonate, 1 g of potassium iodide and 75 ml of acetonitrile was heated at reflux for 24 hours. The product was isolated and distilled, first at 115°-200° C.(0.1 mm) and then at 160°-190° C. (0.05 mm) to yield a yellow oil which crystallized upon cooling. Recrystallization fron hexane--ether afforded 6.2 g of 3-[5-(4-cyanophenoxy)pentyl]-5-methylisoxazole, m.p. 61°-62° C.

reactant | 4-cyanophenol | 5.1 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | 3-(5-bromopentyl)-5-methylisoxazole | 10 g | BrCCCCCC1=NOC(=C1)C | C9H14BrNO
reactant | potassium carbonate | 8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1 g | [I-].[K+]
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
product | 3-[5-(4-cyanophenoxy)pentyl]-5-methylisoxazole | 6.2 g | C(#N)C1=CC=C(OCCCCCC2=NOC(=C2)C)C=C1 | C16H18N2O2
